US05990105
10.0 g (0.026 Mol) 4-(2-Bromo-6-pyrrolidin-1-yl-pyridine-4-sulfonyl)-phenylamine were dissolved in tetrahydrofuran (200 ml), cooled at -40° C. and 33 ml (0.053 Mol) nBuLi in hexane were added. The reaction mixture was stirred at -15° C. for 1 h. Then water (10 ml) was added, the mixture was extracted with ethylacetate, the organic phase was washed with water and brine and dried over Na2SO4. After chromatography on SiO2 with ethyl acetate hexan 1:1 and drying in a high vacuum, it was obtained 3.6 g (45%) of 4-(2-pyrrolidin-1-yl-pyridine-4-sulfonyl) -phenylamine as light yellow cristals; mp.: 186-187° C.

reactant | 4-(2-Bromo-6-pyrrolidin-1-yl-pyridine-4-sulfonyl)-phenylamine | 0.026 Mol, 10.0 g | BrC1=NC(=CC(=C1)S(=O)(=O)C1=CC=C(C=C1)N)N1CCCC1 | C15H16BrN3O2S
reactant | nBuLi | 0.053 Mol, 33 ml | [Li]CCCC
reactant | water | 10 ml | O | H2O
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | 4-(2-pyrrolidin-1-yl-pyridine-4-sulfonyl) -phenylamine | 3.6 g, 45% | N1(CCCC1)C1=NC=CC(=C1)S(=O)(=O)C1=CC=C(C=C1)N | C15H17N3O2S
